US07202245B2
1-Oxo-4-(2-pyridin-4-yl-ethylamino)-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid
A suspension of 1-methoxy-4-(2-pyridin-4-ylethylamino)-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester (47 mg) in acetic acid (3 mL) and hydrobromic acid (1 mL) was stirred at 23° C. for 60 min., and was then heated to 100° C. for 90 min. After cooling to 23° C., the solution was concentrated and the resulting residue was triturated with MeOH/methylene chloride. Filtration afforded the title compound as a white solid. MS (M+H)+=351.3.

reactant | 1-methoxy-4-(2-pyridin-4-ylethylamino)-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid methyl ester | 47 mg | COC(=O)C=1C=C2N=C(C=3N(C2=CC1)C(=NN3)OC)NCCC3=CC=NC=C3 | C19H18N6O3
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 1 mL | Br | BrH
product | 1-Oxo-4-(2-pyridin-4-yl-ethylamino)-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid | O=C1NN=C2N1C1=CC=C(C=C1N=C2NCCC2=CC=NC=C2)C(=O)O | C17H14N6O3
